US06797718B2
N′-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-N-methyl-N-phenylurea
Using the method of Examples 54-68, N-methyl-N-phenylcarbamoyl chloride was reacted with 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The product was purified using Method A. The observed accurate mass was 397.2343.

reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
product | N′-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-N-methyl-N-phenylurea | NC1=NC(=C(C2=C1N=C(N2CCOCCNC(N(C2=CC=CC=C2)C)=O)C)C)C | C21H28N6O2
